US06620957B1
Synthesis of di-tert-butylphenyliodonium perfluorobenzenesulfonate
Di-tert-butylphenyliodonium diethylphosphate (546 mg; 1 mmol) and perfluorobenzenesulfonic acid (267 mg; 1.1 mmol) were dissolved in methylene chloride (10 ml), and 1% aqueous ammonia (10 ml) was added thereto. After the alkalinity of the solution was confirmed, the solution was stirred vigorously. The thus-obtained mixture was allowed to stand, and the aqueous layer was separated. The aqueous layer was washed with water successively until the aqueous layer exhibited neutral pH. The methylene chloride solution was dried, and the solvent was removed through distillation. The residue was washed in ether by stirring, to thereby precipitate 435 mg of the target compound as white crystals (yield: 68%).

reactant | Di-tert-butylphenyliodonium diethylphosphate | 1 mmol, 546 mg | C(C)OP(=O)(OCC)[O-].C(C)(C)(C)[IH+](C1=CC=CC=C1)C(C)(C)C
reactant | perfluorobenzenesulfonic acid | 1.1 mmol, 267 mg | FC1=C(C(=C(C(=C1F)F)F)F)S(=O)(=O)O | C6HF5O3S
reactant | ammonia | 10 ml | N | H3N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | di-tert-butylphenyliodonium perfluorobenzenesulfonate | 435 mg, yield: 68% | FC1=C(C(=C(C(=C1F)F)F)F)S(=O)(=O)[O-].C(C)(C)(C)[IH+](C1=CC=CC=C1)C(C)(C)C | InChI=1S/C14H24I.C6HF5O3S/c1-13(2,3)15(14(4,5)6)12-10-8-7-9-11-12;7-1-2(8)4(10)6(15(12,13)14)5(11)3(1)9/h7-11,15H,1-6H3;(H,12,13,14)/q+1;/p-1
